US08283354B2
To a solution of 2-(4-chloro-7-methylquinazolin-2-yl)phenol (2.84 g, 10.5 mmol) and azetidine-3-carboxylic acid (1.06 g, 10.5 mmol) in DMF (100 mL) was added triethylamine (3.18 g, 4.39 mL, 31.5 mmol). The reaction was stirred at room temperature overnight then diluted with H2O (400 mL). The pH of the solution was adjusted to 3-4 by addition of an aqueous 1 M HCl solution. The white precipitate then obtained was filtered, washed with H2O, and purified by silica gel chromatography using 0-15% MeOH—CH2Cl2 giving 1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)azetidine-3-carboxylic acid. LC/MS: m/z 336.3 (M+H)+ at 1.97 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-chloro-7-methylquinazolin-2-yl)phenol | 10.5 mmol, 2.84 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C15H11ClN2O
reactant | azetidine-3-carboxylic acid | 10.5 mmol, 1.06 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | triethylamine | 31.5 mmol, 4.39 mL, 3.18 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 M | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 400 mL | O | H2O
product | 1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)azetidine-3-carboxylic acid | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1CC(C1)C(=O)O)C | C19H17N3O3
